US06043248
A solution of 2-chloro-3-methoxy-4-vinyl-6-(1-hydroxyethyl)-pyridine (446 mg, 2.09 mmol) in 10 mL of methylene chloride at 0° C. is treated with thionyl chloride (0.227 mL, 3.13 mmol) and stirred at room temperature for 1 h. The reaction is quenched with 15 mL of saturated sodium bicarbonate. The aqueous layer is extracted with 3×10 mL of methylene chloride. The combined organics are dried over potassium carbonate and concentrated in vacuo to provide 447 mg (92%) of 2-chloro-3-methoxy-4-vinyl-6-(1-chloroethyl)-pyridine.

reactant | 2-chloro-3-methoxy-4-vinyl-6-(1-hydroxyethyl)-pyridine | 2.09 mmol, 446 mg | ClC1=NC(=CC(=C1OC)C=C)C(C)O | C10H12ClNO2
reactant | thionyl chloride | 3.13 mmol, 0.227 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-3-methoxy-4-vinyl-6-(1-chloroethyl)-pyridine | 447 mg, 92% | ClC1=NC(=CC(=C1OC)C=C)C(C)Cl | C10H11Cl2NO
